US06890947B2
In analogy to the procedure described in example 44, rac-3-(1H-indol-5-yl)-2-isopropoxy-propionic acid methyl ester (preparation 8) was reacted with 4-chloromethyl-5-methyl-2-o-tolyl-oxazole to give rac-2-isopropoxy-3-[1-(5-methyl-2-o-tolyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic acid as off-white solid.

reactant | rac-3-(1H-indol-5-yl)-2-isopropoxy-propionic acid methyl ester | COC(C(CC=1C=C2C=CNC2=CC1)OC(C)C)=O | C15H19NO3
reactant | 4-chloromethyl-5-methyl-2-o-tolyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)C | C12H12ClNO
product | rac-2-isopropoxy-3-[1-(5-methyl-2-o-tolyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic acid | C(C)(C)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=C(C=CC=C1)C | C26H28N2O4
